US05698579
To a solution of 3-(3-nitrophthalimido)-3-(3-ethoxy-4-methoxyphenyl)propanenitrile (0.2 g, 0.5 mmol) in 30 mL of ethyl acetate was added 0.05 g of 10% palladium on carbon catalyst. The mixture was hydrogenated in a Parr-Shaker apparatus at 55-60 psi of hydrogen overnight. The reaction mixture was filtered through celite and the filtrate was concentrated in vacuo to afford a yellow oil. The crude product was purified by flash column chromatography (silica gel, 3% ethyl acetate/methylene chloride). The resulting yellow solid was then dried in vacuo (60° C., <1 mm) to afford 0.09 g (50%) of 3-(3-aminophthalimido)-3-(3-ethoxy-4-methoxyphenyl)propanenitrile: mp 171°-172.5° C.; 1H NMR (CDCl3) δ7.47-7.356 (m, 1H); 7.19-7.00 (m, 3H), 6.90-6.29 (m, 2H), 5.56 (dd, J=6.6 10 Hz, 1H), 5.24 (s, 2H), 4.09 (q, J=7 Hz, 2H), 3.84 (s, 3H) 3.77 (dd, J=10, 16.8 Hz, 1H), 3.27 (dd, J=6.6, 16.8 Hz, 1H), 1.45 (t, J=7 Hz, 3H); 3C NMR (CDCl 3) δ169.4, 167.9, 149.6, 148.5, 145.5, 135.5, 132.1, 129.4, 121.3, 120.0, 117.1, 113.0, 112.2, 111.4, 110.6, 64.5, 55.9, 50.7, 21.1, 14.7; HPLC (Waters Nova-Pak C18 column, 3.9×150 mm, 4 micron, 1 mL/min, 240 nm, 40/60, acetonitrile/0.1% aqueous phosphoric acid) 4.5 min, 100%; Anal. Calcd. for C20H19N3O4. Theoretical: C, 65.74,H, 5.24, N, 11.50. Found: C, 65.54; H, 5.23; N, 11.23.

reactant | 3-(3-nitrophthalimido)-3-(3-ethoxy-4-methoxyphenyl)propanenitrile | 0.5 mmol, 0.2 g | [N+](=O)([O-])C1=C2C(C(=O)N(C2=O)C(CC#N)C2=CC(=C(C=C2)OC)OCC)=CC=C1 | C20H17N3O6
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 0.05 g | [Pd] | Pd
product | 3-(3-aminophthalimido)-3-(3-ethoxy-4-methoxyphenyl)propanenitrile | 0.09 g, 50% | NC1=C2C(C(=O)N(C2=O)C(CC#N)C2=CC(=C(C=C2)OC)OCC)=CC=C1 | C20H19N3O4
